US07189850B2
c) 8-Benzyl-1-(4-fluoro-phenyl)-1,3,8-triaza-spiro[4.5]dec-2-en-4-one
A solution of 155 g (473 mmol) 1-benzyl-4-(4-fluoro-phenylamino)-piperidine-4-carboxylic acid amide in 200 ml triethyl orthoformate and 100 ml acetic acid was irradiated by microwaves in a sealed reactor to 150° C. for 10 min. and then to 200° C. for further 10 min. The reaction mixture was diluted with water, made alkaline with conc. ammonia, and extracted with dichloromethane. The combined organic extracts were washed with brine, dried over Na2SO4, filtered and evaporated. The residue was crystallised from Et2O: 85 g 8-benzyl-1-(4-fluoro-phenyl)-1,3,8-triaza-spiro[4.5]dec-2-en-4-one: light brown crystals.

reactant | 1-benzyl-4-(4-fluoro-phenylamino)-piperidine-4-carboxylic acid amide | 473 mmol, 155 g | C(C1=CC=CC=C1)N1CCC(CC1)(C(=O)N)NC1=CC=C(C=C1)F | C19H22FN3O
reactant | ammonia | N | H3N
reactant | triethyl orthoformate | 200 ml | C(OCC)(OCC)OCC | C7H16O3
solvent | acetic acid | 100 ml | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
product | 8-Benzyl-1-(4-fluoro-phenyl)-1,3,8-triaza-spiro[4.5]dec-2-en-4-one | C(C1=CC=CC=C1)N1CCC2(C(N=CN2C2=CC=C(C=C2)F)=O)CC1 | C20H20FN3O
